US04935426
Preparation of the starting compound N-(4-Tert-butylcyclohexyl)-piperazine
90 g (0.41 mole) of N-(4-tert-butylphenyl)-piperazine in 1.6 l of dioxane are hydrogenated over 5 g of ruthenium(IV) oxide at 130° C. and under 150 bar for 74 hours. Working up in the usual manner gives a white solid.

reactant | N-(4-tert-butylphenyl)-piperazine | 0.41 mole, 90 g | C(C)(C)(C)C1=CC=C(C=C1)N1CCNCC1 | C14H22N2
solvent | dioxane | 1.6 l | O1CCOCC1 | C4H8O2
catalyst | ruthenium(IV) oxide | 5 g | [Ru](=O)=O
product | N-(4-Tert-butylcyclohexyl)-piperazine | C(C)(C)(C)C1CCC(CC1)N1CCNCC1 | C14H28N2
